US06977390B2
Synthesis of 4-(2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-yl-methoxy)-butane-1-sulphonic acid sodium salt
(2,3-Dihydro-thieno[3,4-b][1,4]dioxin-2-yl)-methanol (6.9 g, 40 mmol) was dissolved into tetrahydrofuran (100 mL) and blanketed by nitrogen. NaH (1.76 g) was added and stirring was continued for 30 min. Then butanesultone (6.0 g) was added dropwise after which the reaction mixture was brought to reflux for 3 h. Then it was cooled to 25° C. again, the solvent was removed, methanol was added, the mixture was stirred, filtered and the filtrate was concentrated. The remaining oil was solidified by addition of hexane and ethanol, followed by stirring. Final filtration and drying resulted in pure 4-(2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-ylmethoxy)-butane-1-sulphonic acid sodium salt as was demonstrated by NMR and mass spectroscopy.

reactant | (2,3-Dihydro-thieno[3,4-b][1,4]dioxin-2-yl)-methanol | 40 mmol, 6.9 g | O1C=2C(OCC1CO)=CSC2 | C7H8O3S
reactant | NaH | 1.76 g | [H-].[Na+]
reactant | butanesultone | 6.0 g | C1CCCOS1(=O)=O | C4H8O3S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-(2,3-dihydro-thieno[3,4-b][1,4]dioxin-2-yl-methoxy)-butane-1-sulphonic acid sodium salt | [Na+].O1C=2C(OCC1COCCCCS(=O)(=O)[O-])=CSC2 | InChI=1S/C11H16O6S2.Na/c12-19(13,14)4-2-1-3-15-5-9-6-16-10-7-18-8-11(10)17-9;/h7-9H,1-6H2,(H,12,13,14);/q;+1/p-1
